US09428510B2
3.75 g (1.5 eq) of silver sulfate and 2.85 g (1.4 eq) of iodine are added successively to a solution of 1.32 g (8.02 mmol) of 6-amino-2-(methylthio)nicotinonitrile in 65 ml of ethanol. The reaction medium is stirred at room temperature for 3 hours. The solid is filtered and the residue rinsed thoroughly with methanol. The filtrate is evaporated and redissolved in ethyl acetate. The organic phase is washed with water three times, dried on magnesium sulfate and evaporated to yield 1.89 g (81%) of 6-amino-5-iodo-2-(methylthio)nicotinonitrile in the form of a brown powder.

reactant | iodine | 2.85 g, 1.4 eq | II | I2
reactant | 6-amino-2-(methylthio)nicotinonitrile | 8.02 mmol, 1.32 g | NC1=NC(=C(C#N)C=C1)SC | C7H7N3S
solvent | ethanol | 65 ml | C(C)O | C2H6O
catalyst | silver sulfate | 3.75 g, 1.5 eq | S(=O)(=O)([O-])[O-].[Ag+2]
product | 6-amino-5-iodo-2-(methylthio)nicotinonitrile | 1.89 g, 81% | NC1=NC(=C(C#N)C=C1I)SC | C7H6IN3S
